US06495683B2
N-(4-Chlorobenzyl)-7-[2-(diethylamino)ethyl]-2-(3-hydroxypropyl)4-oxo4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide Hydrorhloride
To a solution of N-(4-chlorobenzyl)4-hydroxy-2-(3-hydroxypropyl)thieno[2,3-b]pyridine-5-carboxamide (Example No. 8) (0.300 g) in DMF (4 mL) are added K2CO3 (0.550 g) and 2-bromo-N,N-diethylethylamine hydrobromide (0.623 g). The reaction is heated to 90° C. and stirred for 3 d. An additional 0.220 g of K2CO3 and 0.415 g of 2-bromo-N,N-diethylethylamine hydrobromide are added. The reaction is stirred at 90° C. for 6 h. The reaction mixture is concentrated in vacuo, and the resulting residue is partitioned between CH2Cl2 (25 mL) and H2O (25 mL). The aqueous layer is extracted with CH2Cl2 (3×25 mL). The combined organic layers are dried with MgSO4, filtered and concentrated in vacuo. The resulting yellow oil is purified via column chromatography (CH2Cl2:CH3OH; 98:2, 95:5). Fractions homogeneous by TLC are combined and concentrated in vacuo to yield a yellow oil. This material is dissolved in methanolic HCl and then concentrated in vacuo. The residue is recrystallized twice from ethyl acetate/methanol to yield 0.078 g (19%) of the title compound as an off-white, crystalline solid.

reactant | N-(4-chlorobenzyl)4-hydroxy-2-(3-hydroxypropyl)thieno[2,3-b]pyridine-5-carboxamide | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)CCCO)O)C=C1 | C18H17ClN2O3S
reactant | K2CO3 | 0.550 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-N,N-diethylethylamine hydrobromide | 0.623 g | Br.BrCCN(CC)CC
reactant | K2CO3 | 0.220 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-N,N-diethylethylamine hydrobromide | 0.415 g | Br.BrCCN(CC)CC
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | HCl | Cl | ClH
product | N-(4-Chlorobenzyl)-7-[2-(diethylamino)ethyl]-2-(3-hydroxypropyl)4-oxo4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 0.078 g, 19% | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CCN(CC)CC)SC(=C3)CCCO)=O)C=C1 | C24H30ClN3O3S
